US06538150B2
b) Methyl 4-methanesulfonylaminomethyl-2-nitrobenzoate
9.4 ml (0.244 mol) of methanesulfonyl chloride are metered over 30 minutes with ice-cooling to a solution of 30.1 g (0.122 mol) of 3-nitro-4-methoxycarbonyl-benzylammonium chloride and 34 ml (0.244 mol) of triethylamine in 300 ml of dichloromethane, and stirring of the mixture is continued for one hour. For work-up, the reaction mixture is treated with ice water, the phases are separated, and the aqueous phase is reextracted twice more with dichloromethane. After drying (Na2SO4), filtration and concentration, 31.3 g (89%) of methyl 4-methanesulfonylaminomethyl-2-nitrobenzoate remain as a syrupy oil.

reactant | methanesulfonyl chloride | 0.244 mol, 9.4 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-nitro-4-methoxycarbonyl-benzylammonium chloride | 0.122 mol, 30.1 g | [Cl-].[N+](=O)([O-])C=1C=C(C[NH3+])C=CC1C(=O)OC
reactant | triethylamine | 0.244 mol, 34 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | Methyl 4-methanesulfonylaminomethyl-2-nitrobenzoate | CS(=O)(=O)NCC1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C10H12N2O6S
